US07754744B2
Step 2: 2-(Piperidin-4-ylamino)-isonicotinonitrile dihydrochloride (Intermediate B15)
A solution of 4-(4-cyano-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.30 g, 1.00 mmol) in 4 M HCl in dioxane (15 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 203.1 [M+H]+.

reactant | 4-(4-cyano-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.00 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=CC(=C1)C#N | C16H22N4O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-(Piperidin-4-ylamino)-isonicotinonitrile dihydrochloride | Cl.Cl.N1CCC(CC1)NC=1C=C(C#N)C=CN1 | InChI=1S/C11H14N4.2ClH/c12-8-9-1-6-14-11(7-9)15-10-2-4-13-5-3-10;;/h1,6-7,10,13H,2-5H2,(H,14,15);2*1H
